US06218431B1
2,6Diisopropyl-3-hydroxymethyl-4-(4-fluorophenyl)-5-ethenylpyridine
The title compound was prepared from ethyl isobutyrylacetate, 4-fluorobenzaldehyde and methyl triphenylphosphonium bromide/sodium amide according to the procedures described in Example 1, Steps A-G. 1H NMR (300 MHz, CDCl3): δ7.12 (m, 4 H), 6.35 (dd, J=11.5,18 Hz, 1 H), 5.24 (dd, J=1.5, 11.4 Hz, 1 H), 4.97 (dd, J=1.5, 18 Hz, 1 H), 4.41 (d, J=5.5 Hz, 2 H), 3.44 (sept, J=6.6 Hz, 2 H), 1.35 (d, J=6.6 Hz, 6 H), 1.28 (d, J=6.6 Hz, 6 H), 1.25 (m, 1 H). FAB-MS: calculated for (C20OH24FNO) 313, found 314 (M+H). Anal. Calcd for C2OH24FNO: C, 76.65; H, 7.72; N, 4.47. Found: C, 76.87; H, 7.79; N, 4.33. mp 119-120° C. Rf=0.4 (20% ethyl acetate/hexane).

reactant | ethyl isobutyrylacetate | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | methyl triphenylphosphonium bromide sodium amide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH2-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2,6Diisopropyl-3-hydroxymethyl-4-(4-fluorophenyl)-5-ethenylpyridine | C(C)(C)C1=NC(=C(C(=C1CO)C1=CC=C(C=C1)F)C=C)C(C)C | C20H24FNO
